US05834482
3-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-9H-β-carboline (Compound 5)
To a solution of sodium ethoxide, prepared from sodium metal (0.6 g, 26 mmol) and anhydrous ethanol (50 mL), cyclopropylmethanimidamide (1.67 g, 16 mmol) and 9H-β-carboline-3-carboxylic acid ethyl ester (2.0 g, 8.0 mmol) were added. Toluene (50 mL) was added and the resulting mixture was heated to 120°-130° C. The ethanol and water formed during the reaction were removed by azeotropic distillation. The reaction was complete after 30 min. The solid was filtered from the reaction mixture, washed with water and dried. This afforded the title compound (1.15 g, 52%) as an yellow solid. M.p. 256°-257° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 26 mmol, 0.6 g | [Na] | Na
reactant | cyclopropylmethanimidamide | 16 mmol, 1.67 g | C1(CC1)C(N)=N | C4H8N2
reactant | 9H-β-carboline-3-carboxylic acid ethyl ester | 8.0 mmol, 2.0 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1 | C14H12N2O2
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | Toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-9H-β-carboline | 1.15 g, 52% | C1(CC1)C1=NOC(=N1)C=1N=CC=2NC3=CC=CC=C3C2C1 | C16H12N4O
